US06538002B1
Step A: Methyl 3-(3-Thienyl)acrylate
A suspension of potassium t-butoxide (61.5 g, 0.55 mol) in THF (800 mL) was cooled in an ice bath and trimethylphospbonoacetate (98 mL, 0.60 mol) in THF (100 mL) was slowly added. After 45 min, thiophene 3-carboxaldehyde (50 mL, 0.55 mol) in THF (100 mL) was slowly added while stirred in the ice bath. The mi,suture was allowed to warm to rt and stirred for 16 h. The reaction was quenched with 5% sulfuric acid (300 mL) and extracted twice with ether. The organic layers were each washed with brine, dried over magnesium sulfate, combined and concentrated. The residue was purified by FC (10% ethyl acetate in hexanes) and then crystallized from hexanes to give the title compound (71.3 g).

reactant | potassium t-butoxide | 0.55 mol, 61.5 g | CC(C)([O-])C.[K+]
reactant | thiophene 3-carboxaldehyde | 0.55 mol, 50 mL | S1C=C(C=C1)C=O | C5H4OS
reactant | THF | 800 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | Methyl 3-(3-Thienyl)acrylate | 71.3 g | S1C=C(C=C1)C=CC(=O)OC | C8H8O2S
